US08710043B2
To a solution of 3-fluoro-4-(trifluoromethyl)benzaldehyde (5.7 g, 29.7 mmol) in DCM (60 mL) was added (S)-2-methylpropane-2-sulfinamide (7.19 g, 59.3 mmol) and copper (II) sulfate (18.94 g, 119 mmol). The suspension was stirred at rt under N2 for 20 h. The suspension was then filtered through Celite® brand filter agent, and the solids were washed with DCM (2×20 mL). The filtrates were concentrated and purified by ISCO (120 g, SiO2, 10-50% EtOAc/hexanes) to give (S,E)-N-(3-fluoro-4-(trifluoromethyl)benzylidene)-2-methylpropane-2-sulfinamide as a white solid.

reactant | 3-fluoro-4-(trifluoromethyl)benzaldehyde | 29.7 mmol, 5.7 g | FC=1C=C(C=O)C=CC1C(F)(F)F | C8H4F4O
reactant | (S)-2-methylpropane-2-sulfinamide | 59.3 mmol, 7.19 g | CC(C)(C)[S@](=O)N | C4H11NOS
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
catalyst | copper (II) sulfate | 119 mmol, 18.94 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | (S,E)-N-(3-fluoro-4-(trifluoromethyl)benzylidene)-2-methylpropane-2-sulfinamide | FC=1C=C(\C=N\[S@@](=O)C(C)(C)C)C=CC1C(F)(F)F | C12H13F4NOS
